US06831193B2
3-[(4-nitrophenyl)sulfanyl]benzaldehyde
2-(3-Bromophenyl)-1,3-dioxolane and bis(4-nitrophenyl) disulfide were processed as described in Example 71A to provide the title compound.

reactant | 2-(3-Bromophenyl)-1,3-dioxolane | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | bis(4-nitrophenyl) disulfide | [N+](=O)([O-])C1=CC=C(C=C1)SSC1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O4S2
product | 3-[(4-nitrophenyl)sulfanyl]benzaldehyde | [N+](=O)([O-])C1=CC=C(C=C1)SC=1C=C(C=O)C=CC1 | C13H9NO3S
